US08278482B2
1-(3-(Dichloroamino)-3-methylbutyl)-1-methylpiperidinium chloride
A solution of 1-(3-amino-3-methylbutyl)-1-methylpiperidinium chloride (1.00 g, 3.80 mmol) in a mixture of methanol (6 mL) and water (6 mL) was cooled in an ice bath for 15 min. t-BuOCl (1.3 mL, 3.0 equiv, 11.4 mmol) was added in one portion via syringe to the colorless solution to give a deep yellow solution. The reaction mixture was stirred for 30 min at 0° C. Then the methanol was removed under reduced pressure and the crude solid was purified via reverse phase chromatography on a Shimadzu Prep-LC utilizing water/methanol and 0.05% acetic acid as modifier. Fractions were collected monitoring UV absorbance at 215 nm. Fractions were pooled and concentrated under reduced pressure at 25° C. to give a white solid, (0.92 g, 83%). 1H NMR (D2O, 400 MHz): δ 1.46 (s, 6H), 1.52-1.55 (m, 2H), 1.70-1.95 (m, 4H), 2.20-2.28 (m, 2H), 3.05 (s, 3H), 3.35-3.48 (m, 6H). LRMS (ESI+) for C11H23Cl2N2+ (253.1); Found: 253, 255 (M+, M2H+).

reactant | 1-(3-amino-3-methylbutyl)-1-methylpiperidinium chloride | 3.80 mmol, 1.00 g | [Cl-].NC(CC[N+]1(CCCCC1)C)(C)C
reactant | t-BuOCl | 11.4 mmol, 1.3 mL, 3.0 equiv | C(C)(C)(C)OCl | C4H9ClO
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | 1-(3-(Dichloroamino)-3-methylbutyl)-1-methylpiperidinium chloride | [Cl-].ClN(C(CC[N+]1(CCCCC1)C)(C)C)Cl | InChI=1S/C11H23Cl2N2.ClH/c1-11(2,14(12)13)7-10-15(3)8-5-4-6-9-15;/h4-10H2,1-3H3;1H/q+1;/p-1
